US06979696B2
To a solution of 2,2,6,6-tetramethyl piperidine (0.18 ml, 1.05 mmol) dissolved in anhydrous tetrahydrofuran (5 ml) was added butyllithium (2.5M in hexanes; 0.42 ml, 1.05 mmol). The reaction was cooled to −78° C. and a solution of (4-chloro-1H-indol-3-yl)-acetonitrile (200 mg, 1.05 mmol) in anhydrous tetrahydrofuran (5 ml) was added, maintaining the temperature between −78° C. and −72° C. After 5 minutes, methyl isocyanate (0.06 ml, 1.05 mmol) was added. The dry ice bath was removed after 15 minutes and the reaction was allowed to stir overnight. After the solvent was removed under reduced pressure, the residue was partitioned between dichloromethane(100 ml) and saturated sodium chloride solution (5 ml). The organic extract was dried (anhydrous magnesium sulfate), filtered and concentrated under reduced pressure. Purification by flash column chromatography over silica gel eluting with 30% ethyl acetate in hexane to give 4-chloro-3-cyanomethyl-indole-1-carboxylic acid methylamide as a white solid (54 mg, 21%). 1H NMR (CDCl3) δ: 3.07 (d, 3H, J=4.7 Hz), 4.17 (s, 2H), 7.24 (m, 2H), 7.50 (s, 1H), 8.14 (m, 1H) M+247.

reactant | 2,2,6,6-tetramethyl piperidine | 1.05 mmol, 0.18 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | butyllithium | 1.05 mmol, 2.5M, 0.42 ml | C(CCC)[Li]
reactant | (4-chloro-1H-indol-3-yl)-acetonitrile | 1.05 mmol, 200 mg | ClC1=C2C(=CNC2=CC=C1)CC#N | C10H7ClN2
reactant | methyl isocyanate | 1.05 mmol, 0.06 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-chloro-3-cyanomethyl-indole-1-carboxylic acid methylamide | 54 mg, 21% | CNC(=O)N1C=C(C2=C(C=CC=C12)Cl)CC#N | C12H10ClN3O
